US07399867B2
1-{2-[4-(6-Benzyloxy-2-bromo-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine
Dissolve 1-{2-[4-(6-benzyloxy-2-bromo-1-oxo-1H-1λ4-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine (22.36 g, 40.3 mmol) in methanol (160 mL) and chloroform (80 mL). Add a 30% solution of titanium trichloride in aqueous HCl (31.4 mL, 80.6 mmol) and stir at ambient temperature for 2 hours. Quench reaction mixture with saturated aqueous sodium bicarbonate (500 mL) and dilute with dichloromethane (500 mL). Separate layers and wash the organic layer with saturated aqueous sodium bicarbonate (500 mL), water (500 mL), and brine (500 mL). Dry with sodium sulfate, filter and concentrate in vacuo. Chromatograph the residue on a SiO2 column eluting with methanol (containing 10% NH4OH) in dichloromethane (0 to 2%) to give 19.2 g of the title compound (88%).

reactant | 1-{2-[4-(6-benzyloxy-2-bromo-1-oxo-1H-1λ4-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine | 40.3 mmol, 22.36 g | C(C1=CC=CC=C1)OC=1C=CC2=C(S(C(=C2OC2=CC=C(OCCN3CCCCC3)C=C2)Br)=O)C1 | C28H28BrNO4S
reactant | HCl | 80.6 mmol, 31.4 mL | Cl | ClH
solvent | methanol | 160 mL | CO | CH4O
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-{2-[4-(6-Benzyloxy-2-bromo-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine | 19.2 g, 88% | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2OC2=CC=C(OCCN3CCCCC3)C=C2)Br)C1 | C28H28BrNO3S
